* TLV9042 - Rev. B
* Created by Bala Ravi; September 19, 2019 - Revised by GPAMPS Team; 2021-08-16
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
* Copyright 2019 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* UNITY GAIN BANDWIDTH (GBW)
* INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* DIFFERENTIAL INPUT IMPEDANCE (Zid)
* COMMON-MODE INPUT IMPEDANCE (Zic)
* OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* SLEW RATE (SR)
* SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* LARGE SIGNAL RESPONSE
* OVERLOAD RECOVERY TIME (tor)
* INPUT BIAS CURRENT (Ib)
* INPUT OFFSET CURRENT (Ios)
* INPUT OFFSET VOLTAGE (Vos)
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
*
* Updates:
*
* Version 1.1: Fixed input voltage noise and input current noise to reflect data sheet
******************************************************
.subckt TLV9042 IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model BB_SW VSWITCH(Ron=50 Roff=1e12 Von=700e-3 Voff=0)
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=250e-3 Voff=0)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=1e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************


VS1         24 21 340U
I_OS        ESDn MID 0
I_B         21 MID 5P
V_GRp       56 MID 400
V_GRn       57 MID -400
V_ISCp      50 MID 40
V_ISCn      51 MID -40
V_ORn       47 VCLP -16.5
V11         55 46 0
V_ORp       45 VCLP 16.5
V12         54 44 0
V4          39 OUT 0
VCM_MIN     76 VEE_B -10M
VCM_MAX     77 VCC_B 10M
I_Q         VCC VEE 10U
Xi_nn       ESDn MID FEMT_0
Xi_np       MID 21 FEMT_0
Xe_n        ESDp 21 VNSE_0
C22         22 MID 530.5F  
R64         MID 22 R_NOISELESS 1MEG 
GVCCS14     22 MID VSENSE MID  -1U
C20         CLAMP MID 936.2N  
R46         MID CL_CLAMP R_NOISELESS 1K 
GVCCS13     CL_CLAMP MID CLAW_CLAMP MID  -1M
R45         MID CLAW_CLAMP R_NOISELESS 1K 
GVCCS6      CLAW_CLAMP MID 22 MID  -1M
R43         MID VSENSE R_NOISELESS 1K 
GVCCS5      VSENSE MID CLAMP MID  -1M
C21         23 MID 612.1P  
XCLAWp      VIMON MID 25 VCC_B VCCS_LIM_CLAW+_0
XCLAWn      MID VIMON VEE_B 26 VCCS_LIM_CLAW-_0
R57         MID 27 R_NOISELESS 4.44 
C16         27 28 79.58N 
R56         28 27 R_NOISELESS 100MEG 
G_adjust    28 MID ESDp MID  -22.5M
Rsrc        MID 28 R_NOISELESS 1 
R55         MID 29 R_NOISELESS 251.9M 
C14         29 30 93.62N 
R49         30 29 R_NOISELESS 100MEG 
GVCCS3      30 MID VCC_B MID  -12.56
R48         MID 30 R_NOISELESS 1 
R54         MID 31 R_NOISELESS 370.4M 
C15         31 32 63.66N 
R51         32 31 R_NOISELESS 100MEG 
GVCCS1      32 MID VEE_B MID  -8.54
R50         MID 32 R_NOISELESS 1 
XVCCS_LIM_2 33 MID MID CLAMP VCCS_LIM_2_0
R94         34 MID R_NOISELESS 1 
XZo         35 MID MID 34 VCCS_LIM_ZO_0
R93         35 MID R_NOISELESS 2.5 
C33         35 36 5.5P  
R92         35 36 R_NOISELESS 10K 
R91         36 MID R_NOISELESS 1 
GVCCS11     36 MID 37 MID  -1
R85         37 23 R_NOISELESS 10K 
R84         37 38 R_NOISELESS 6.25K 
Rdummy      MID 39 R_NOISELESS 155K 
Rx          39 34 R_NOISELESS 1.55MEG 
R81         38 MID R_NOISELESS 1 
GVCCS10     38 MID CL_CLAMP 39  -135
S5          VEE ESDp VEE ESDp  S_VSWITCH_1
S4          VEE ESDn VEE ESDn  S_VSWITCH_2
S2          ESDn VCC ESDn VCC  S_VSWITCH_3
S3          ESDp VCC ESDp VCC  S_VSWITCH_4
C28         40 MID 1P 
R77         41 40 R_NOISELESS 100 
C27         42 MID 1P 
R76         43 42 R_NOISELESS 100 
R75         MID 44 R_NOISELESS 1 
GVCCS8      44 MID 45 MID  -1
R74         46 MID R_NOISELESS 1 
GVCCS7      46 MID 47 MID  -1
R68         MID CLAMP R_NOISELESS 1MEG 
R44         MID 33 R_NOISELESS 1MEG 
XVCCS_LIM_1 48 49 MID 33 VCCS_LIM_1_0
XIQp        VIMON MID MID VCC VCCS_LIMIT_IQ_0
XIQn        MID VIMON VEE MID VCCS_LIMIT_IQ_0
C_DIFF      ESDp ESDn 500F 
XCL_AMP     50 51 VIMON MID 52 53 CLAMP_AMP_LO_0
SOR_SWp     CLAMP 54 CLAMP 54  S_VSWITCH_5
SOR_SWn     55 CLAMP 55 CLAMP  S_VSWITCH_6
XGR_AMP     56 57 58 MID 59 60 CLAMP_AMP_HI_0
R39         56 MID R_NOISELESS 1T 
R37         57 MID R_NOISELESS 1T 
R42         VSENSE 58 R_NOISELESS 1M 
C19         58 MID 1F 
R38         59 MID R_NOISELESS 1 
R36         MID 60 R_NOISELESS 1 
R40         59 61 R_NOISELESS 1M 
R41         60 62 R_NOISELESS 1M 
C17         61 MID 1F 
C18         MID 62 1F 
XGR_SRC     61 62 CLAMP MID VCCS_LIM_GR_0
R21         52 MID R_NOISELESS 1 
R20         MID 53 R_NOISELESS 1 
R29         52 63 R_NOISELESS 1M 
R30         53 64 R_NOISELESS 1M 
C9          63 MID 1F 
C8          MID 64 1F 
XCL_SRC     63 64 CL_CLAMP MID VCCS_LIM_4_0
R22         50 MID R_NOISELESS 1T 
R19         MID 51 R_NOISELESS 1T 
R12         25 VCC_B R_NOISELESS 1K 
R16         25 65 R_NOISELESS 1M 
R13         VEE_B 26 R_NOISELESS 1K 
R17         66 26 R_NOISELESS 1M 
C6          66 MID 1F 
C5          MID 65 1F 
G2          VCC_CLP MID 65 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K 
G3          VEE_CLP MID 66 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 67 68 CLAMP_AMP_LO_0
R26         VCC_CLP MID R_NOISELESS 1T 
R23         VEE_CLP MID R_NOISELESS 1T 
R25         67 MID R_NOISELESS 1 
R24         MID 68 R_NOISELESS 1 
R27         67 69 R_NOISELESS 1M 
R28         68 70 R_NOISELESS 1M 
C11         69 MID 1F 
C10         MID 70 1F 
XCLAW_SRC   69 70 CLAW_CLAMP MID VCCS_LIM_3_0
H2          43 MID V11 -1
H3          41 MID V12 1
C12         SW_OL MID 100P 
R32         71 SW_OL R_NOISELESS 100 
R31         71 MID R_NOISELESS 1 
XOL_SENSE   MID 71 42 40 OL_SENSE_0
S1          38 37 SW_OL MID  S_VSWITCH_7
H1          72 MID V4 1K
S7          VEE OUT VEE OUT  S_VSWITCH_8
S6          OUT VCC OUT VCC  S_VSWITCH_9
R11         MID 73 R_NOISELESS 1T 
R18         73 VOUT_S R_NOISELESS 100 
C7          VOUT_S MID 100P 
E5          73 MID OUT MID  1
C13         VIMON MID 100P 
R33         72 VIMON R_NOISELESS 100 
R10         MID 72 R_NOISELESS 1T 
R47         74 VCLP R_NOISELESS 100 
C24         VCLP MID 100P 
E4          74 MID CL_CLAMP MID  1
C4          48 MID 1F 
R9          48 75 R_NOISELESS 1M 
R7          MID 76 R_NOISELESS 1T 
R6          77 MID R_NOISELESS 1T 
R8          MID 75 R_NOISELESS 1 
XVCM_CLAMP  78 MID 75 MID 77 76 VCCS_EXT_LIM_0
E1          MID 0 79 0  1
R89         VEE_B 0 R_NOISELESS 1 
R5          80 VEE_B R_NOISELESS 1M 
C3          80 0 1F 
R60         79 80 R_NOISELESS 1MEG 
C1          79 0 100e-9 
R3          79 0 R_NOISELESS 1T 
R59         81 79 R_NOISELESS 1MEG 
C2          81 0 1F 
R4          VCC_B 81 R_NOISELESS 1M 
R88         VCC_B 0 R_NOISELESS 1 
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R_PSR       82 78 R_NOISELESS 1K 
G_PSR       78 82 29 31  -1M
R2          49 ESDn R_NOISELESS 1M 
R1          82 83 R_NOISELESS 1M 
R_CMR       24 83 R_NOISELESS 1K 
G_CMR       83 24 27 MID  -1M
C_CMn       ESDn MID 1.4P 
C_CMp       MID ESDp 1.4P 
R53         ESDn MID R_NOISELESS 1T 
R52         MID ESDp R_NOISELESS 1T 
R35         IN- ESDn R_NOISELESS 10M 
R34         IN+ ESDp R_NOISELESS 10M 

.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_3 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_4 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_5 VSWITCH (RON=10M ROFF=1T VON=10M VOFF=0)
.MODEL S_VSWITCH_6 VSWITCH (RON=10M ROFF=1T VON=10M VOFF=0)
.MODEL S_VSWITCH_7 VSWITCH (RON=1M ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_8 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_9 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)

.ENDS TLV9042
*
.SUBCKT FEMT_0  1 2
.PARAM FLWF=1E-3
.PARAM NLFF=20
.PARAM NVRF=20
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS
*


.SUBCKT VNSE_0  1 2
.PARAM FLW=10
.PARAM NLF=170
.PARAM NVR=70
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
*


.SUBCKT VCCS_LIM_CLAW+_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(0, 1.00E-05)
+(36, 1.50E-05)
+(37.5, 2.50E-04)
+(40, 1.75E-03)
+(40.1, 1.94E-03)
+(40.2, 2.05E-03)
+(41, 3.35E-03)
.ENDS
*


.SUBCKT VCCS_LIM_CLAW-_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(0, 1.00E-05)
+(35, 1.00E-05)
+(40.5, 6E-05)
+(42, 9.5E-04)
+(43, 2.75E-03)
.ENDS
*


.SUBCKT VCCS_LIM_2_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 4.2E-2
.PARAM IPOS = 0.74
.PARAM INEG = -0.74
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_ZO_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 4E3
.PARAM IPOS = 125K
.PARAM INEG = -125K
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_1_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIMIT_IQ_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
*


.SUBCKT CLAMP_AMP_LO_0  VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*


.SUBCKT CLAMP_AMP_HI_0  VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*


.SUBCKT VCCS_LIM_GR_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 2
.PARAM INEG = -2
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_4_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 1.6
.PARAM INEG = -1.6
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_3_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 800E-3
.PARAM INEG = -800E-3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT OL_SENSE_0  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
*


.SUBCKT VCCS_EXT_LIM_0  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
*